US05116862
4-t-Butyl-1-(4-methylhex-5-ynyl)-2,6,7-trioxabicyclo[2.2.2]octane was prepared from 5-methylhept-6-ynoic acid and 3-t-butyl-3-hydroxymethyl oxetane as described in Example I.

reactant | 5-methylhept-6-ynoic acid | CC(CCCC(=O)O)C#C | C8H12O2
reactant | 3-t-butyl-3-hydroxymethyl oxetane | C(C)(C)(C)C1(COC1)CO | C8H16O2
product | 4-t-Butyl-1-(4-methylhex-5-ynyl)-2,6,7-trioxabicyclo[2.2.2]octane | C(C)(C)(C)C12COC(OC1)(OC2)CCCC(C#C)C | C16H26O3
